US04778511
6-Trifluoromethoxy-1-trifluoromethylsulphenylindazole
20.2 g (0.1 mole) of 6-trifluoromethoxyindazole and 10.1 g (0.1 mole) of triethylamine in 125 ml of toluene are heated to 80° to 85° C., and 13.6 g (0.1 mole) of trifluoromethanesulphenyl chloride are then passed in the course of one hour and the mixture is stirred for a further hour at this temperature. After cooling, the precipitated triethylamine hydrochloride is filtered off with suction and rinsed with toluene. The filtrate, combined with the wash liquor, is washed twice with water. After drying (MgSO4) the volatile constituents are removed by distillation under a water pump vacuum. The oily crude product is purified by distillation under an oil pump vacuum. Boiling point 62°/0.05 mbar. Yield: 16.2 g (46% of theory).

reactant | 6-trifluoromethoxyindazole | 0.1 mole, 20.2 g | FC(OC1=CC=C2C=NNC2=C1)(F)F | C8H5F3N2O
reactant | triethylamine | 0.1 mole, 10.1 g | C(C)N(CC)CC | C6H15N
reactant | trifluoromethanesulphenyl chloride | 0.1 mole, 13.6 g | FC(SCl)(F)F | CClF3S
solvent | toluene | 125 ml | C1(=CC=CC=C1)C | C7H8
product | 6-Trifluoromethoxy-1-trifluoromethylsulphenylindazole | FC(OC1=CC=C2C=NN(C2=C1)SC(F)(F)F)(F)F | C9H4F6N2OS
